US07705028B2
4d) Ethyl 6-hydroxy-1-naphthalenecarboxylate
Thionyl chloride (2.3 mL, 31.9 mmol) was slowly added to a solution of 6-hydroxy-1-naphthoic acid (3 g, 15.9 mmol) in ethanol (140 mL) and stirred under N2. After addition, the reaction mixture was heated at reflux under nitrogen for 6 days. The reaction mixture was cooled to room temperature and concentrated to give the crude product as an oil. The oil was carefully partitioned between 5% NaHCO3 and EtOAc. The organic phase was separated and washed with brine, dried over MgSO4, filtered and the filtrate was concentrated to give 3 g (87%) of the product as a red amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 9.92 (s, 1 H), 8.57 (m, 1 H), 7.92 (d, J=8 Hz, 1 H), 7.85 (d, J=7 Hz, 1 H), 7.45 (t, J=8, 1 H), 7.20-7.18 (m, 2 H), 4.38-4.33 (m, 2 H), 1.34 (t, J=7 Hz, 3 H).

reactant | Thionyl chloride | 31.9 mmol, 2.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 6-hydroxy-1-naphthoic acid | 15.9 mmol, 3 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | ethanol | 140 mL | C(C)O | C2H6O
product | Ethyl 6-hydroxy-1-naphthalenecarboxylate | 3 g, 87% | OC=1C=C2C=CC=C(C2=CC1)C(=O)OCC | C13H12O3
